US06762321B2
Five hundred milligrams (500 mg) of 3-difluoromethoxy-N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide (1.16 mmol) and 5 ml of anhydrous N,N-dimethylformamide were mixed and cooled, and then 49 mg (1.22 mmol) of 60% sodium hydride was added thereto and stirred at 0° C. for 30 minutes. To the mixture, 164 mg (1.16 mmol) of methyl iodide was added and stirred at 0° C. for 30 minutes and then at room temperature for 2 hours. Water was added to the reaction mixture, which which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel preparative thin layer chromatography (eluent, hexane:ethyl acetate=3:1) to give 460 mg of 3-difluoromethoxy-N-[2-(3,4-dimethoxyphenyl)ethyl]-N-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide (the present compound 1125).

reactant | 3-difluoromethoxy-N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 1.16 mmol, Five hundred milligrams | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)OC)OC)C1=CC=2CCCCC2C=C1)F | C24H27F2NO4
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 1.22 mmol, 49 mg | [H-].[Na+]
reactant | methyl iodide | 1.16 mmol, 164 mg | CI | CH3I
solvent | Water | O | H2O
product | 3-difluoromethoxy-N-[2-(3,4-dimethoxyphenyl)ethyl]-N-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 460 mg | FC(OC=C(C(=O)N(C)CCC1=CC(=C(C=C1)OC)OC)C1=CC=2CCCCC2C=C1)F | C25H29F2NO4
